US06255327B1
1.9 g of 2-phenyl-benzo[e][1,3]oxazin-4-one are refluxed in 75 ml of ethanol with 1.0 g of hydrazine hydrate. After about 1 hour the solvent is distilled off in vacuo and the residue remaining is stirred into water. The solid formed (3-(2-hydroxyphenyl)-5-phenyl-1,2,4-triazole) is used in the next step without further purification. Yield: 0.5 g (25%).

reactant | 2-phenyl-benzo[e][1,3]oxazin-4-one | 1.9 g | C1(=CC=CC=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO2
reactant | hydrazine hydrate | 1.0 g | O.NN
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-(2-hydroxyphenyl)-5-phenyl-1,2,4-triazole | OC1=C(C=CC=C1)C1=NNC(=N1)C1=CC=CC=C1 | C14H11N3O
